US08975256B2
8-(5-Fluoro-2-methylphenoxymethyl)-7-[2-methoxy-4-(N-methyl-N-phenylaminocarbonyloxy)phenyl]-1,3,3 trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 19)
A mixture 8-(5-fluoro-2-methylphenoxymethyl)-7-(4-hydroxy-2-methoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 11, 25.4 mg, 0.0564 mmol) and N-methyl-N-phenylcarbamoyl chloride (20.4 mg, 0.120 mmol) was dissolved in pyridine (1 mL), and stirred for 2 hours at 100° C. The reaction mixture was concentrated, and then the obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (28.7 mg) as a pale yellow amorphous product. (Yield 87%)

reactant | 8-(5-fluoro-2-methylphenoxymethyl)-7-(4-hydroxy-2-methoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | FC=1C=CC(=C(OCC=2C(=CC=C3NC(C(N(C23)C)=O)(C)C)C2=C(C=C(C=C2)O)OC)C1)C | C26H27FN2O4
reactant | N-methyl-N-phenylcarbamoyl chloride | 0.120 mmol, 20.4 mg | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 8-(5-Fluoro-2-methylphenoxymethyl)-7-[2-methoxy-4-(N-methyl-N-phenylaminocarbonyloxy)phenyl]-1,3,3 trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 28.7 mg, Yield 87% | FC=1C=CC(=C(OCC=2C(=CC=C3NC(C(N(C23)C)=O)(C)C)C2=C(C=C(C=C2)OC(=O)N(C2=CC=CC=C2)C)OC)C1)C | C34H34FN3O5
